US07282595B2
To a solution of indane (50 mmol, 6.11 mL) in dichloromethane (50 mL) at 0° C. is added dropwise chlorosulfonic acid (200 mmol, 13.3 mL). The resulting solution is allowed to return to room temperature and stirred for 2 hrs. The solution is then poured slowly onto a mixture of ice (200 g) and dichloromethane (50 mL). The organic layer is separated, washed with brine (50 mL), dried over sodium sulfate, filtered and evaporated to produce indan-5-sulfonic acid chloride.

reactant | indane | 50 mmol, 6.11 mL | C1CCC2=CC=CC=C12 | C9H10
reactant | chlorosulfonic acid | 200 mmol, 13.3 mL | ClS(=O)(=O)O | ClHO3S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | indan-5-sulfonic acid chloride | C1CCC2=CC(=CC=C12)S(=O)(=O)Cl | C9H9ClO2S
